US05013737
4,5-Dihydro-7-(3-(trifluoromethyl)phenyl)-pyrazolo(1,5 -a)pyrimidine-3-carboxamide
A 10.0 g amount of 7-(3-(trifluoromethyl) phenyl)pyrazolo(1,5-a)pyrimidine-3-carboxamide (prepared in the manner described in Example 1) is stirred under nitrogen as a suspension in 120 ml of glacial acetic acid (cooled in an ice bath) and then 5.5 g of sodium cyanoborohydride is added to the reaction mixture in portions with an additional 80 ml of glacial acetic acid. After one hour of stirring in the ice bath the mixture is stirred at room temperature for 19 hours. The solution is evaporated to dryness, then water is added and the white precipitate which forms is collected by filtration and washed with an aqueous saturated solution of sodium bicarbonate, then with water. The solid is treated with 100 ml of acetonitrile, isolated and dried to give 5.25 g of the desired product, which is recrystallized from acetonitrile, mp 157-160° C.

reactant | 7-(3-(trifluoromethyl) phenyl)pyrazolo(1,5-a)pyrimidine-3-carboxamide | FC(C=1C=C(C=CC1)C1=CC=NC=2N1N=CC2C(=O)N)(F)F | C14H9F3N4O
reactant | sodium cyanoborohydride | 5.5 g | C(#N)[BH3-].[Na+]
solvent | acetic acid | 120 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 80 ml | C(C)(=O)O | C2H4O2
product | 4,5-Dihydro-7-(3-(trifluoromethyl)phenyl)-pyrazolo(1,5 -a)pyrimidine-3-carboxamide | 5.25 g | FC(C=1C=C(C=CC1)C1=CCNC=2N1N=CC2C(=O)N)(F)F | C14H11F3N4O
